US05034049
4.5-Dibromothiophene-2-carboxylic acid-N-ethoxyamide
At room temperature, 6.8 g of 4.5-dibromothiophene-2-carboxylic chloride is stirred, in portions, into 6.8 g of O-ethylhydroxylamine hydrochloride in 10 ml of pyridine and 80 ml of tetrahydrofuran. After 30 minutes, dilute hydrochloric acid was added, and the product was filtered off and washed with water. Yield: 5.8 g; m.p.: 117-119° C.

reactant | 4.5-dibromothiophene-2-carboxylic chloride | 6.8 g | BrC=1C=C(SC1Br)C(=O)Cl | C5HBr2ClOS
reactant | O-ethylhydroxylamine hydrochloride | 6.8 g | Cl.C(C)ON
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 4.5-Dibromothiophene-2-carboxylic acid-N-ethoxyamide | C(C)ONC(=O)C=1SC(=C(C1)Br)Br | C7H7Br2NO2S
